US08168815B2
Step 1: (4-bromo-3-iodophenyl)amine
To a solution of 3-iodoaniline (12 mL, 100 mmol) in 400 mL CH2Cl2 at −10° C. was added in portions 2,4,4,6-tetrabromo-2,5-cyclohexadienone (45.1 g, 110 mmol) while maintaining an internal temperature of −10° C. After stirring for 4 hours, 150 mL of 1N NaOH was added, and the product was extracted with CH2Cl2. The combined extracts were washed with water and then brine and dried over Na2SO4. After concentration in vacuo the crude product was recrystallized with 2:1 hexanes:toluene to yield the desired product.

reactant | 3-iodoaniline | 100 mmol, 12 mL | IC=1C=C(N)C=CC1 | C6H6IN
reactant | 2,4,4,6-tetrabromo-2,5-cyclohexadienone | 110 mmol, 45.1 g | BrC=1C(C(=CC(C1)(Br)Br)Br)=O | C6H2Br4O
reactant | NaOH | 1N, 150 mL | [OH-].[Na+]
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | (4-bromo-3-iodophenyl)amine | BrC1=C(C=C(C=C1)N)I | C6H5BrIN
